US04268510
A suspension of 2-amino-5-nitrobenzaldehyde (6.0 g.) in ethanol (250 ml.) was stirred at ambient temperature while sodium borohydride (1.6 g.) was added in small portions, and the reaction mixture was stirred for 1 hour. The reaction mixture was made acid with 2 N hydrochloric acid to destroy the excess of sodium borohydride, and then basified to pH 8 to 9 with solid sodium carbonate and extracted with diethyl ether (3×200 ml.). The extracts were combined and dried, the solvent was evaporated and the residue was crystallised from water (about 200 ml.) to give the required 2-amino-5-nitrobenzyl alcohol, m.p. 141°-142° C.;

reactant | 2-amino-5-nitrobenzaldehyde | 6.0 g | NC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O3
reactant | sodium borohydride | 1.6 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-amino-5-nitrobenzyl alcohol | NC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
